US07981903B2
To 6-hydroxy-3,4-dihydro-2(1 H)-quinolinone (90.2 g, 0.55 mol, 1 equiv) in DMF (1.8 L) was added potassium carbonate (228 g, 1.65 mol, 3 equiv). The slurry was stirred for 45 min. at 25° C., then iodoethane (114 g, 0.73 mol, 1.33 equiv) was added and stirring was continued for 12 hours. The mixture was filtered, the filtrate was poured into water, and the white precipitate was collected via filtration, washed with water (500 mL), and dried under high vacuum to provide 6-(ethyloxy)-3,4-dihydro-2(1H)-quinolinone (72.3 g, 69%). 1H NMR (400 MHz, DMSO) δ, 1.25 (t, J=7.2 Hz, 3H), 2.35 (m, 2 H), 2.78 (m, 2H), 3.90(m, 2H), 6.70-6.73 (m, 3H), 9.83 (br, 1H).

reactant | 6-hydroxy-3,4-dihydro-2(1 H)-quinolinone | 0.55 mol, 90.2 g, 1 equiv | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | potassium carbonate | 1.65 mol, 228 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.73 mol, 114 g, 1.33 equiv | ICC | C2H5I
solvent | DMF | 1.8 L | CN(C)C=O | C3H7NO
product | 6-(ethyloxy)-3,4-dihydro-2(1H)-quinolinone | 72.3 g, 69% | C(C)OC=1C=C2CCC(NC2=CC1)=O | C11H13NO2
